US07279481B2
2-(3-Aminophenyl)ethanol
2-(3-Nitrophenyl)ethanol (836 mg, 5.00 mmol) and Pd (10% on charcoal, 200 mg) were suspended in dry methanol (10 mL). After the addition of ammonium formate (1.450 g, 23 mmol) a slightly exothermic and effervescent reaction was observed. After stirring for 1 h at room temperature the mixture was filtered over celite. The filtrate was evaporated and the residue dissolved in ethyl acetate. After washing with saturated aqueous sodium hydrogencarboante solution, water and brine the organic layer was dried (magnesium sulfate) and the solvent removed under reduced pressure affording the title compound in 54% yield (373 mg) as a white solid.

reactant | 2-(3-Nitrophenyl)ethanol | 5.00 mmol, 836 mg | [N+](=O)([O-])C=1C=C(C=CC1)CCO | C8H9NO3
reactant | ammonium formate | 23 mmol, 1.450 g | C(=O)[O-].[NH4+]
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd | 200 mg | [Pd] | Pd
product | 2-(3-Aminophenyl)ethanol | 54% yield | NC=1C=C(C=CC1)CCO | C8H11NO
